US08895547B2
(S)-3-(9-Biphenyl-4-yl-8,8-dioxo-2,5-dioxa-8lambda*6*-thia-7-azaspiro[3.5]non-6-en-6-ylamino)-3-(2-fluorophenyl)propan-1-ol
In a round-bottom flask, 9-biphenyl-4-yl-6-methoxy-2,5-dioxa-8-thia-7-azaspiro[3.5]non-6-ene 8,8-dioxide was dissolved under inert gas in 2 ml of dichloromethane, and 151 mg of (S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamine were added. After concentration by rotary evaporation, the residue was left to stand at room temperature for 18 hours. To detach the protecting group, the residue was taken up in 1 ml of methanol and, after addition of 0.05 ml of concentrated hydrochloric acid, stirred at room temperature for 1 hour. After concentration by rotary evaporation, the residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined and freed of the solvent under reduced pressure. This gave the product (8 mg) with a molecular weight of 496.6 g/mol (C26H25FN2O5S); MS (ESI): m/e=497 (M+H+).

reactant | (S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamine | 151 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=C(C=CC=C1)F)N | C15H26FNOSi
reactant | 9-biphenyl-4-yl-6-methoxy-2,5-dioxa-8-thia-7-azaspiro[3.5]non-6-ene 8,8-dioxide | C1(=CC=C(C=C1)C1S(N=C(OC12COC2)OC)(=O)=O)C2=CC=CC=C2 | C18H17NO5S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-3-(9-Biphenyl-4-yl-8,8-dioxo-2,5-dioxa-8lambda*6*-thia-7-azaspiro[3.5]non-6-en-6-ylamino)-3-(2-fluorophenyl)propan-1-ol | 8 mg | C1(=CC=C(C=C1)C1S(N=C(OC12COC2)N[C@@H](CCO)C2=C(C=CC=C2)F)(=O)=O)C2=CC=CC=C2 | C26H25FN2O5S
